US06809110B2
In analogy to the procedure described in example 14 b], [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester (example 10 b]) was reacted with 2-(4-tert-butyl-phenyl)-4-chloromethyl-thiazole (example 4 a]) in the presence of cesium carbonate and potassium iodide to yield [rac]-3-{4-[2-(4-tert-butyl-phenyl)-thiazol-4-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid ethyl ester as colorless liquid.

reactant | [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)O)C)OCC)=O | C14H20O4
reactant | 2-(4-tert-butyl-phenyl)-4-chloromethyl-thiazole | C(C)(C)(C)C1=CC=C(C=C1)C=1SC=C(N1)CCl | C14H16ClNS
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
product | [rac]-3-{4-[2-(4-tert-butyl-phenyl)-thiazol-4-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCC=1N=C(SC1)C1=CC=C(C=C1)C(C)(C)C)C)OCC)=O | C28H35NO4S
